US07595397B2
4-[4-(2-Chloro-thiophen-3-yl)-benzyl]-2-phenyl-morpholine
91 mg of 4-(4-Bromo-benzyl)-2-phenyl-morpholine was combined with 77 mg of bis(pinacolato)diboron, 81 mg of potassium acetate, 16 mg tetrakis(triphenylphosphine)palladium(0), and 1.9 mL DMF. The mixture was heated in a microwave reactor at 120° C. for 7 minutes and cooled. 0.7 mL of 2M aqueous sodium carbonate was added along with 81 mg of 2-Chloro-3-bromothiophene in 0.12 mL DMF. The mixture was heated in the microwave reactor for an additional 5 minutes at 120° C. The reaction was cooled and filtered through Celite, washing with methylene chloride. The residue was diluted with 4 mL DCM and 130 mg of MP-TsOH resin (4.2 mmol/g loading) was added and the mixture agitated at room temperature overnight. The solution is filtered and the resin is then washed with 2M N3 in methanol to liberate product. The resin is washed several times with methylene chloride, concentrated in vacuo and purified by reverse phase HPLC. 10.9 mg of product is obtained as oil, 10% yield. ES MS m/z 398

reactant | 4-(4-Bromo-benzyl)-2-phenyl-morpholine | 91 mg | BrC1=CC=C(CN2CC(OCC2)C2=CC=CC=C2)C=C1 | C17H18BrNO
reactant | bis(pinacolato)diboron | 77 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 81 mg | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 2M, 0.7 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-Chloro-3-bromothiophene | 81 mg | ClC=1SC=CC1Br | C4H2BrClS
solvent | DMF | 0.12 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 1.9 mL | CN(C)C=O | C3H7NO
product | 4-[4-(2-Chloro-thiophen-3-yl)-benzyl]-2-phenyl-morpholine | 10.9 mg, 10% yield | ClC=1SC=CC1C1=CC=C(CN2CC(OCC2)C2=CC=CC=C2)C=C1 | C21H20ClNOS
